US07223782B2
1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride (3.00 g, 9.70 mmol) was added to 3-amino-benzenesulfonyl fluoride (1.87 g, 10.6 mmol) in CH2Cl2 (50 ml) containing pyridine (2.35 ml, 29.1 mmol). Reaction mixture stirred overnight at room temperature, concentrated under reduced pressure and crude product purified by column chromatography to give 3-{[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-benzenesulfonyl fluoride (3.23 g, 74%).

reactant | 1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 9.70 mmol, 3.00 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)Cl | C11H5Cl2F3N2O
reactant | 3-amino-benzenesulfonyl fluoride | 10.6 mmol, 1.87 g | NC=1C=C(C=CC1)S(=O)(=O)F | C6H6FNO2S
reactant | pyridine | 29.1 mmol, 2.35 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-{[1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl]-amino}-benzenesulfonyl fluoride | 3.23 g, 74% | ClC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)NC=1C=C(C=CC1)S(=O)(=O)F | C17H10ClF4N3O3S
